US05521170
To a solution of 1-{4-[2-(2-methylphenyl)benzoylamino]benzoyl}-2,3,4,5-tetrahydro-1H-1-benzazepin-5-one (620 mg) in methanol (20 ml) was added sodium borohydride (49.4 mg) and the mixture was stirred at ambient temperature for 4 hours. The mixture was diluted with chloroform and the solution was washed with water and brine, and dried over magnesium sulfate. The solvent was evaporated in vacuo to give a syrup and the residue was purified by silica gel column (30g, 1% methanol in chloroform) to give 5-hydroxy-1-{4-[2-(2-methylphenyl)benzoylamino]benzoyl}-2,3,4,5-tetrahydro-1H-1-benzazepine (580 mg).

reactant | 1-{4-[2-(2-methylphenyl)benzoylamino]benzoyl}-2,3,4,5-tetrahydro-1H-1-benzazepin-5-one | 620 mg | CC1=C(C=CC=C1)C1=C(C(=O)NC2=CC=C(C(=O)N3CCCC(C4=C3C=CC=C4)=O)C=C2)C=CC=C1 | C31H26N2O3
reactant | sodium borohydride | 49.4 mg | [BH4-].[Na+]
solvent | methanol | 20 ml | CO | CH4O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 5-hydroxy-1-{4-[2-(2-methylphenyl)benzoylamino]benzoyl}-2,3,4,5-tetrahydro-1H-1-benzazepine | 580 mg | OC1CCCN(C2=C1C=CC=C2)C(C2=CC=C(C=C2)NC(C2=C(C=CC=C2)C2=C(C=CC=C2)C)=O)=O | C31H28N2O3
